US05262568
A mixture of N-(m-ethylphenyl)-N-methylcyanamide (640 mg, 4 mmol) and m-ethylaniline hydrochloride (630 mg, 4 mmol) was placed in a preheated oil bath at 160° C. for 2.5 hours and then allowed to cool to room temperature. The resulting solid was taken up in dichloromethane and washed with 10% NAOH solution. The organic layer concentrated and the residue was flash chromatographed on SiO2 to give N,N'-di-(m-ethylphenyl)-N-methylguanidine (630 mg, 56%) as a colorless liquid:

reactant | N-(m-ethylphenyl)-N-methylcyanamide | 4 mmol, 640 mg | C(C)C=1C=C(C=CC1)N(C#N)C | C10H12N2
reactant | m-ethylaniline hydrochloride | 4 mmol, 630 mg | Cl.C(C)C=1C=C(N)C=CC1
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N'-di-(m-ethylphenyl)-N-methylguanidine | 630 mg, 56% | C(C)C=1C=C(C=CC1)N(C(=N)NC1=CC(=CC=C1)CC)C | C18H23N3
